US07544683B2
cis-[4-(5-Chloro-pyridin-2-yloxy)-cyclohexyl]-(4-cyclobutyl-piperazin-1-yl)-methanone
According to the procedure described for example 1, the title compound had been synthesized from trans-(4-cyclobutyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone and 5-chloro-2-hydroxypyridine. MS (m/e): 378.3 (MH+).

reactant | trans-(4-cyclobutyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone | C1(CCC1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)O | C15H26N2O2
reactant | 5-chloro-2-hydroxypyridine | ClC=1C=CC(=NC1)O | C5H4ClNO
product | cis-[4-(5-Chloro-pyridin-2-yloxy)-cyclohexyl]-(4-cyclobutyl-piperazin-1-yl)-methanone | ClC=1C=CC(=NC1)O[C@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C1CCC1 | C20H28ClN3O2
